US06821967B2
d. 9-(3-hydroxy-propyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
12 ml of 9-borabicyclo[3.3.1]nonane are added dropwise to a solution of 1.5 g (4.52 mmol) of 9-allyl-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide in 40 ml of THF under nitrogen. Then the mixture is stirred for three hours at ambient temperature. 6 ml of 1M sodium hydroxide solution and 4 ml of 33% hydrogen peroxide solution are then added successively and the resulting mixture is stirred for one hour. The reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is dried over sodium sulphate. The product is purified by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=1:1).

reactant | 9-borabicyclo[3.3.1]nonane | 12 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | 9-allyl-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | 4.52 mmol, 1.5 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CC=C)(F)F | C19H16F3NO
reactant | sodium hydroxide | 1M, 6 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 9-(3-hydroxy-propyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCO)(F)F | C19H18F3NO2
